US04198425
3-Hydroxy-3-methyl-4-bromo-7-(o-benzyloxyphenyl)-5-heptanolide
The carboxylic acid (2.15 g) prepared by hydrolyzing ethyl 3-hydroxy-3-methyl-7-(o-benzyloxyphenyl)-4-heptenoate was treated with 1.6 g of bromine in an aqueous methanol solution of sodium hydrogen carbonate and the reaction mixture was worked up according to the method described in Example 1 (b). The product was recrystallized from ether to give 2.3 g of the desired compound melting at 122°-125° C.

reactant | ethyl 3-hydroxy-3-methyl-7-(o-benzyloxyphenyl)-4-heptenoate | OC(CC(=O)OCC)(C=CCCC1=C(C=CC=C1)OCC1=CC=CC=C1)C | C23H28O4
reactant | bromine | 1.6 g | BrBr | Br2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methanol | CO | CH4O
product | 3-Hydroxy-3-methyl-4-bromo-7-(o-benzyloxyphenyl)-5-heptanolide | 2.3 g | OC1(CC(=O)OC(C1Br)CCC1=C(C=CC=C1)OCC1=CC=CC=C1)C | C21H23BrO4
